US07528147B2
A mixture of 1.30 g of 4-chloro-5-fluoro-1H-pyrrolo[2,3-b]pyridine, 1.6 g of 4-methylbenzenesulfonyl chloride, 3.40 g of sodium hydroxide dissolved in 16 cm3 of water, and 0.052 g of tetrabutylammonium hydrogen sulfate in 200 cm3 of toluene is stirred for about 24 hours in the region of 20° C. The mixture is diluted with 500 cm3 of ethyl acetate; the organic phase is washed with three times 200 cm3 of water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (13 kPa). The residue is purified by flash chromatography on a column of silica [eluent: dichloromethane]. 1.90 μg of 4-chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine are thus obtained in the form of a powder, the characteristics of which are as follows:

reactant | 4-chloro-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 1.30 g | ClC1=C2C(=NC=C1F)NC=C2 | C7H4ClFN2
reactant | 4-methylbenzenesulfonyl chloride | 1.6 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | sodium hydroxide | 3.40 g | [OH-].[Na+]
solvent | water | 16 cm3 | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 0.052 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 200 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 500 cm3 | C(C)(=O)OCC | C4H8O2
product | 4-chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1.90 μg | ClC1=C2C(=NC=C1F)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C14H10ClFN2O2S
